US08754114B2
Step 2: tert-butyl 3-(cyanomethyl)-3-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)azetidine-1-carboxylate
A mixture of N-[3-(7-chloroimidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea (600 mg, 2 mmol), tert-butyl 3-(cyanomethyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate (760 mg, 1.9 mmol), tetrakis(triphenylphosphine)palladium(0) (94.9 mg, 0.0822 mmol) and potassium carbonate (570 mg, 4.1 mmol) in 1,4-dioxane (9.0 mL) and water (4 mL) was heated at 100° C. under an atmosphere of nitrogen for 4 h. After cooling, the reaction mixture was extracted with ethyl acetate (3×20 mL), and washed with brine. The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with methanol in dichloromethane (0-10%) to afford the desired product. LCMS (M+H)+: m/z=596.2.

reactant | N-[3-(7-chloroimidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | 2 mmol, 600 mg | ClC1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C15H11ClF3N5O
reactant | tert-butyl 3-(cyanomethyl)-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]azetidine-1-carboxylate | 1.9 mmol, 760 mg | C(#N)CC1(CN(C1)C(=O)OC(C)(C)C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C19H29BN4O4
reactant | potassium carbonate | 4.1 mmol, 570 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 9.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0822 mmol, 94.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 3-(cyanomethyl)-3-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)azetidine-1-carboxylate | C(#N)CC1(CN(C1)C(=O)OC(C)(C)C)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C2=CC(=CC=C2)NC(=O)NCC(F)(F)F | C28H28F3N9O3
